US07569583B2
Hexahydropyrrolizine-1-carboxylic acid ethyl ester
A mixture of rac-proline (1.15 g), ethyl acrylate (1.20 g), toluene (80 ml) and paraformaldehyde (3.6 g) was heated to reflux for 3 hours. The mixture was concentrated and the residue was filtered through silica gel. The product with the molecular weight of 183.25 (C10H17NO2); MS (ESI): 184 (M+H+) was obtained in this way.

reactant | rac-proline | 1.15 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | ethyl acrylate | 1.20 g | C(C=C)(=O)OCC | C5H8O2
reactant | paraformaldehyde | 3.6 g | C=O | CH2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | Hexahydropyrrolizine-1-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN2CCCC12 | C10H17NO2
